US07495015B2
Iodine (1.53 g, 6.02 mmol) and potassium hydroxide pellets (805 mg, 14.3 mmol) were added successively into a DMF solution of 6-(2-Fluoro-phenoxy)-1H-indazole (1.35 g, 5.92 mmol) at room temperature under stirring. After 1.5 h the reaction was poured into sodium bisulfite solution and extracted into EtOAc (2×20 mL). The combined organic layers were dried over Na2SO4 filtered, concentrated and the residue was purified by flash chromatography eluting with Hex:EtOAc 9:1 to yield 1.9 g of 6-(2-fluoro-phenoxy)-3-iodo-1H-indazole: MS: 355 (M+H).

reactant | Iodine | 6.02 mmol, 1.53 g | II | I2
reactant | potassium hydroxide | [OH-].[K+]
reactant | 6-(2-Fluoro-phenoxy)-1H-indazole | 5.92 mmol, 1.35 g | FC1=C(OC2=CC=C3C=NNC3=C2)C=CC=C1 | C13H9FN2O
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 6-(2-fluoro-phenoxy)-3-iodo-1H-indazole | 1.9 g | FC1=C(OC2=CC=C3C(=NNC3=C2)I)C=CC=C1 | C13H8FIN2O
